US03950333
Reacting N-(3-pyridazinylmethyl)ethylenediamine with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[2-(3-pyridazinylmethylamino)ethyl]guanidine. Treatment with hydrobromic acid gives the hydrobromide salt.

reactant | N-(3-pyridazinylmethyl)ethylenediamine | N1=NC(=CC=C1)CNCCN | C7H12N4
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[2-(3-pyridazinylmethylamino)ethyl]guanidine | [N+](=O)([O-])NC(=N)NCCNCC=1N=NC=CC1 | C8H13N7O2
